datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([H:5])([H:6])[H:7])([H:2])([H:3])[H:4].[C:8]([C:9]([C:10]([H:20])([H:21])[H:22])[c:11]1[c:12]([H:23])[c:13]([H:24])[c:14]([H:25])[c:15]([H:26])[c:16]1[H:27])([H:17])([H:18])[H:19]>>[C:0]([C:1]([H:5])([H:6])[H:7])([H:3])[H:4].[H:2][C:9]([C:8]([H:17])([H:18])[H:19])([C:10]([H:20])([H:21])[H:22])[c:11]1[c:12]([H:23])[c:13]([H:24])[c:14]([H:25])[c:15]([H:26])[c:16]1[H:27],74.0568
[C:0](#[C:1][C:2]([C:3]#[C:4][H:13])=[C:5]([c:6]1[c:7]([H:15])[c:8]([H:16])[c:9]([H:17])[c:10]([H:18])[c:11]1[H:19])[H:14])[H:12].[H:20]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:13])[C:5]([c:6]1[c:7]([H:15])[c:8]([H:16])[c:9]([H:17])[c:10]([H:18])[c:11]1[H:19])([H:14])[H:20])[H:12],11.9244
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([H:5])[H:6])([H:3])[H:4].[C:10]1([H:16])[C:11]([H:17])([H:18])[C:12]([H:19])([H:20])[C:13]([H:21])([H:22])[C:14]([H:23])([H:24])[C:15]1([H:25])[H:26]>>[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([H:5])[H:6])([H:3])([H:4])[C:10]1([H:16])[C:11]([H:17])([H:18])[C:12]([H:19])([H:20])[C:13]([H:21])([H:22])[C:14]([H:23])([H:24])[C:15]1([H:25])[H:26],0.0
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([c:6]1[c:7]([H:24])[c:8]([H:25])[c:9]([H:26])[c:10]([H:27])[c:11]1[H:28])([H:22])[H:23])([H:20])[H:21])[H:19])([H:17])[H:18])([H:15])[H:16])([H:12])([H:13])[H:14]>>[C:0]([C:1]([C:2]([C:3]1([H:19])[C:4]([H:20])([H:21])[C:5]([H:22])([H:23])[C:6]2=[C:7]([H:24])[C:8]([H:25])=[C:9]([H:26])[C:10]([H:27])[C:11]12[H:28])([H:17])[H:18])([H:15])[H:16])([H:12])([H:13])[H:14],57.6245
[C:0](#[C:1][C:2]=[C:3]([H:5])[H:6])[H:4].[C:7](=[C:8]([C:9]([S:10][H:16])([H:14])[H:15])[H:13])([H:11])[H:12]>>[C:0](#[C:1][C:2](=[C:3]([H:5])[H:6])[H:14])[H:4].[C:7](=[C:8]([C:9]([S:10][H:16])[H:15])[H:13])([H:11])[H:12],15.0624
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[C:17]([H:18])([H:19])[H:20]>>[C:0]([C:1]([C:2]([C:3]([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[H:11][C:17]([H:18])([H:19])[H:20],29.932336
[C:0](#[C:1][C:2]([H:4])([H:5])[H:6])[H:3].[C:7]([C:8]([C:9]([H:14])([H:15])[H:16])[S:10][H:17])([H:11])([H:12])[H:13]>>[C:0](#[C:1][C:2]([H:5])[H:6])[H:3].[H:4][C:8]([C:7]([H:11])([H:12])[H:13])([C:9]([H:14])([H:15])[H:16])[S:10][H:17],22.1752
[C:0](#[C:1][C:2]#[C:3][C:4](=[C:5]([H:8])[H:9])[H:7])[H:6].[C:10]([c:11]1[c:12]([H:19])[c:13]([H:20])[c:14]([H:21])[c:15]([H:22])[c:16]1[H:23])([H:17])[H:18]>>[C:0](#[C:1][C:2]=[C:3]([C:4](=[C:5]([H:8])[H:9])[H:7])[C:10]([c:11]1[c:12]([H:19])[c:13]([H:20])[c:14]([H:21])[c:15]([H:22])[c:16]1[H:23])([H:17])[H:18])[H:6],38.5765
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[O:4][O:5][H:14])([H:6])[H:7]>>[C:0]1([H:6])([H:7])[C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[O:4]1.[O:5][H:14],92.048
[C:0]([C:1]([C:2](=[C:3]([H:9])[H:10])[H:8])([H:6])[H:7])([H:4])[H:5]>>[C:0]([C:1]([C:2](=[C:3]([H:9])[H:10])[H:8])[H:7])([H:4])([H:5])[H:6],113.8048
[C:0](=[C:1]=[C:2]([H:5])[H:6])([H:3])[H:4].[C:7](=[C:8][S:9][H:12])([H:10])[H:11]>>[C:0](=[C:1]=[C:2]([H:5])[H:6])[H:4].[H:3][C:8](=[C:7]([H:10])[H:11])[S:9][H:12],-13.8072
[C:0](=[C:1]([C:2]([O:3][H:9])([H:7])[H:8])[H:6])([H:4])[H:5].[C:10]([H:11])([H:12])[H:13]>>[C:0](=[C:1]([C:2]([H:7])[H:8])[H:6])([H:4])[H:5].[O:3]([H:9])[C:10]([H:11])([H:12])[H:13],133.915
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([H:11])([H:12])[H:13])[H:7])([H:5])[H:6].[C:14]([S:15][H:19])([H:16])([H:17])[H:18]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([H:11])([H:12])[H:13])[S:15][C:14]([H:16])([H:17])[H:18])[H:7])([H:5])[H:6].[H:19],120.499
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:23])([H:24])[H:25])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[O:26]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:23])([H:24])[H:25])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])[H:12])([H:8])([H:9])[H:10].[H:11][O:26],7.397312
[C:0]([O:1][C:2]([C:3]([H:8])([H:9])[H:10])=[O:4])([H:5])([H:6])[H:7].[H:11]>>[C:0]([O:1][C:2]([C:3]([H:9])[H:10])=[O:4])([H:5])([H:6])[H:7].[H:8][H:11],10.807272
[O:0]=[S:1][O:2][H:3].[S:4][H:5]>>[H:3][S:4][H:5].[O:0]=[S:1]=[O:2],0.0
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([S:4][H:10])[H:6])[H:5].[C:11]([C:12]([C:13]([H:23])([H:24])[H:25])[c:14]1[c:15]([H:26])[c:16]([H:27])[c:17]([H:28])[c:18]([H:29])[c:19]1[H:30])([H:20])([H:21])[H:22]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[S:4][H:10])[H:5].[H:6][C:12]([C:11]([H:20])([H:21])[H:22])([C:13]([H:23])([H:24])[H:25])[c:14]1[c:15]([H:26])[c:16]([H:27])[c:17]([H:28])[c:18]([H:29])[c:19]1[H:30],2.092
[C:0]([S:1][H:5])([H:2])([H:3])[H:4].[S:6]([C:7]([c:8]1[c:9]([H:16])[c:10]([H:17])[c:11]([H:18])[c:12]([H:19])[c:13]1[H:20])[H:15])[H:14]>>[C:0]([S:1])([H:2])([H:3])[H:4].[H:5][C:7]([S:6][H:14])([c:8]1[c:9]([H:16])[c:10]([H:17])[c:11]([H:18])[c:12]([H:19])[c:13]1[H:20])[H:15],21.3384
